US09314026B2
154 mg (0.5 mmol) of 4-[2-(4-fluorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-3-yl]pyridin-2-amine and 193 mg (1.5 mmol, 3 eq) of Huenigs base are dissolved in 4 mL tetrahydrofuran. To this are added 156 mg of cyclopropanecarbonyl chloride (1.5 mmol, 3 eq) and the reaction mixture is stirred for 20 hrs at room temperature. Then the reaction mixture is treated with water and extracted with ethyl acetate. The organic phases are dried over Na2SO4 and the solvents are removed under vacuum. The crude material is purified by column chromatography on silica (eluent cyclohexane/ethyl acetate). 180 mg (75%) of N-(cyclopropylcarbonyl)-N-{4-[2-(4-fluorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-3-yl]pyridin-2-yl}cyclopropanecarboxamide are obtained as a colourless solid.

reactant | 4-[2-(4-fluorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-3-yl]pyridin-2-amine | 0.5 mmol, 154 mg | FC1=CC=C(C=C1)C1=NN2C(CCCC2)=C1C1=CC(=NC=C1)N | C18H17FN4
reactant | Huenigs base | 1.5 mmol, 193 mg, 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanecarbonyl chloride | 1.5 mmol, 156 mg, 3 eq | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-(cyclopropylcarbonyl)-N-{4-[2-(4-fluorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-3-yl]pyridin-2-yl}cyclopropanecarboxamide | 180 mg, 75% | C1(CC1)C(=O)N(C(=O)C1CC1)C1=NC=CC(=C1)C=1C(=NN2C1CCCC2)C2=CC=C(C=C2)F | C26H25FN4O2
